US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-(2,2-difluoroethyl)-1H-pyrrole-3-carboxamide
Following the same procedure in Example 31, method B, using 2,2-difluoroethylamine (138 mg, 1.7 mmol), N,N-diisopropylethylamine (0.8 ml, 4.4 mmol), HATU (646 mg, 1.7 mmol) and 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid (1.1 mmol) in DMF (15 mL). The crude product was purified on LCMS using high pH column 40-70% acetonitrile gradient to afford 9 mg (2% yield) of the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.43-1.51 (m, 3 H), 1.51-1.58 (m, 2 H), 1.60 (s, 9 H), 3.22 (q, J=7.36 Hz, 1 H), 3.33 (d, J=2.93 Hz, 1 H), 3.62 (m, 1 H), 3.68-3.76 (m, 1 H), 3.90 (dd, J=10.64, 3.42 Hz, 2 H), 4.43 (d, J=7.42 Hz, 2 H), 5.90 (m, 1 H), 6.68 (dd, J=3.03, 1.46 Hz, 1 H), 7.30-7.34 (m, 1 H), 7.87 (s, 1 H), 7.90-7.99 (m, 2 H), 8.28 (s, 1 H); MS (APPI) (M+H)+=509.3.

reactant | 2,2-difluoroethylamine | 1.7 mmol, 138 mg | FC(CN)F | C2H5F2N
reactant | N,N-diisopropylethylamine | 4.4 mmol, 0.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 1.7 mmol, 646 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid | 1.1 mmol | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)O | C22H27N3O5S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-(2,2-difluoroethyl)-1H-pyrrole-3-carboxamide | 9 mg, 2% yield | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)NCC(F)F | C24H30F2N4O4S
